US04029816
A mixture of 4-(1,1-dimethylpropyl)phenol (32.8 g., 0.2 mole) and 2-chloro-N-(hydroxymethyl)acetamide (24.6 g., 0.2 mole) in acetic acid (200 ml.) and 96% sulfuric acid (20 ml.) is stirred at 20° for 12 hours and then poured into cold water (1 l.). The solid that separates is extracted with ether and the ether extract is washed with water and salt brine and evaporated to dryness. The oily residue is dissolved in a mixture of 12N hydrochloric acid (100 ml.) and ethanol (100 ml.). The mixture is refluxed for 7 hours. The mixture then is evaporated to dryness under reduced pressure. The residue is triturated with dry ether to obtain a sticky white solid that is dissolved in hot ethanol (50 ml.) and precipitated in the cold by addition of ether (800 ml.). The solid is then crystallized from ethanol - 12N hydrochloric acid (1:10) to obtain 2-aminomethyl-4-(1,1-dimethylpropyl)phenol hydrochloride (17 g.), m.p. 191°-192° C.

reactant | 4-(1,1-dimethylpropyl)phenol | 0.2 mole, 32.8 g | CC(CC)(C)C1=CC=C(C=C1)O | C11H16O
reactant | 2-chloro-N-(hydroxymethyl)acetamide | 0.2 mole, 24.6 g | ClCC(=O)NCO | C3H6ClNO2
reactant | water | 1 l | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-(1,1-dimethylpropyl)phenol hydrochloride | 17 g | Cl.NCC1=C(C=CC(=C1)C(CC)(C)C)O | InChI=1S/C12H19NO.ClH/c1-4-12(2,3)10-5-6-11(14)9(7-10)8-13;/h5-7,14H,4,8,13H2,1-3H3;1H
